US04840947
4,9-Dibromo-6-(1-methylpiperidin-4-yl)-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
1,2-Dibromoethane (0.5 ml) was added to a refluxing slurry of magnesium chips (6 gm) in tetrahydrofuran (70 ml) to initiate a Grignard reaction. A solution of N-methyl-4-chloropiperidine (35 ml) in tetrahydrofuran (100 ml) was added rapidly. The reaction mixture was refluxed for 2 hours, during which a white precipitate formed. The mixture was cooled to room temperature and transferred to a flask containing 4,9-dibromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine (20 gm) in tetrahydrofuran (200 ml) in one portion at ice-temperature. After 1 hour of stirring, the mixture was poured into ice-water/concentrated hydrochloric acid (600 ml:35 ml), and stirred for 15 minutes. The acid solution was slowly added to a stirred mixture prepared from dichloromethane (1 L) and an ammonium hydroxide solution (40 ml). The organic solution was separated, washed with water (500 ml) and brine (2×500 ml) and dried over anhydrous magnesium sulfate. The solution was filtered and concentrated to an oil (26 gm).

reactant | 1,2-Dibromoethane | 0.5 ml | BrCCBr | C2H4Br2
reactant | magnesium | [Mg] | Mg
reactant | N-methyl-4-chloropiperidine | 35 ml | CN1CCC(CC1)Cl | C6H12ClN
reactant | 4,9-dibromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 20 gm | BrC=1C=C2C3=C(C=NC4=C(N3CC2)C=CC(=C4)Br)C1 | C15H10Br2N2
reactant | ammonium hydroxide | 40 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 4,9-Dibromo-6-(1-methylpiperidin-4-yl)-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | BrC=1C=C2C3=C(C(NC4=C(N3CC2)C=CC(=C4)Br)C4CCN(CC4)C)C1 | C21H23Br2N3
